US09428510B2
905 μl (2 eq) of methyl iodide and 2.1 g (1.05 eq) of silver carbonate are added successively to a solution of 2.12 g (7.26 mmol) of 6-hydroxy-5-iodo-2-(methylthio)nicotinonitrile in 20 ml of 1,4-dioxane. The reaction medium is stirred at 60° C. for 5 hours. The solid is filtered and the residue rinsed thoroughly with methanol. The filtrate is evaporated and the residue purified by silica column chromatography (4:6 dichloromethane/cyclohexane as eluent) to yield 1.52 g (68%) of 5-iodo-6-methoxy-2-(methylthio)nicotinonitrile in the form of a white powder.

reactant | methyl iodide | 905 μl, 2 eq | CI | CH3I
reactant | 6-hydroxy-5-iodo-2-(methylthio)nicotinonitrile | 7.26 mmol, 2.12 g | OC1=NC(=C(C#N)C=C1I)SC | C7H5IN2OS
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | silver carbonate | 2.1 g, 1.05 eq | C([O-])([O-])=O.[Ag+2]
product | 5-iodo-6-methoxy-2-(methylthio)nicotinonitrile | 1.52 g, 68% | IC=1C(=NC(=C(C#N)C1)SC)OC | C8H7IN2OS
